US06936612B2
8-Cyclopentyl-2-[5-(2,6-dimethyl-morpholin-4-yl)-pyridin-2-ylamino]-6-(1-ethoxy-vinyl)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (0.055 g, 0.109 mmol) was dissolved in ethyl acetate (3 mL) and 1 N aqueous HCl (2 mL) and stirred at room temperature for 48 hours. The reaction mixture was diluted with dichloromethane and aqueous NaHCO3. The layers were separated and the organic layer was dried over MgSO4, filtered, and the solvent evaporated to give 6-acetyl-8-cyclopentyl-2-[5-(2,6-dimethyl-morpholin-4-yl)-pyridin-2-ylamino]-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (0.020 g, 38.4%). MS (APCI) Calc'd for M+1: 477.3. Found: 477.2. 1H NMR δ (400 MHz, CDCl3) 8.79 (s, 1H), 8.1 (d, J=9.0 Hz, 1H), 8.00 (d, J=2.7 Hz, 1H), 7.90 (s, 1H), 7.30 (dd, J=3.1, 9.3 Hz, 1H), 5.87 (m, 1H), 3.83 (m, 2H), 3.37 (d, J=10.0 Hz, 2H), 2.54 (s, 3H), 2.46 (dd, J=11.7, 11.7, 2H), 2.37 (s, 3H), 2.32 (m, 2H), 2.05 (m, 2H), 1.87 (m, 2H), 1.68 (m, 2H), 1.27 (d, J=6.4 Hz, 6H).

reactant | 8-Cyclopentyl-2-[5-(2,6-dimethyl-morpholin-4-yl)-pyridin-2-ylamino]-6-(1-ethoxy-vinyl)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.109 mmol, 0.055 g | C1(CCCC1)N1C(C(=C(C2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CC(OC(C2)C)C)C)C(=C)OCC)=O | C28H36N6O3
reactant | HCl | 1 N, 2 mL | Cl | ClH
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 6-acetyl-8-cyclopentyl-2-[5-(2,6-dimethyl-morpholin-4-yl)-pyridin-2-ylamino]-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.020 g, 38.4% | C(C)(=O)C1=C(C2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CC(OC(C2)C)C)N(C1=O)C1CCCC1)C | C26H32N6O3
